US08252781B2
Preparation of 2-cyclooctyl-4,4-dimethyl-1-(naphthalen-1-yl)-1,2-diazetidin-3-one
2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one and 1-bromonaphtalene were used for a similar reaction and treatment as Example 181, and the title compound was obtained as a pale yellow oil.

reactant | 2-Cyclooctyl-4,4-dimethyl-1,2-diazetidin-3-one | C1(CCCCCCC1)N1NC(C1=O)(C)C | C12H22N2O
reactant | 1-bromonaphtalene | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
product | 2-cyclooctyl-4,4-dimethyl-1-(naphthalen-1-yl)-1,2-diazetidin-3-one | C1(CCCCCCC1)N1N(C(C1=O)(C)C)C1=CC=CC2=CC=CC=C12 | C22H28N2O
